US06436959B1
A solution of 3.5 g (14.1 mmol) of N-(3-methoxyphenyl)-1-propyl-4-piperidinamine, 3.61 g (14.1 mmol) of N,N-diethyl-4-bromobenzamide, 129 mg (0.141 mmol) tris(dibenzylideneacetone)-dipalladium(0) (Pd2dba3), 263 mg (0.423 mmol) of (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (+BINAP) and 1.89 g (19.7 mmol) of sodium t-butoxide in 25 mL of dry toluene was heated at 110° C. under Ar in a pressure vessel for 16 h. The mixture was cooled and partitioned between CH2Cl2 and H2O. The organic layer was washed with brine, dried (K2CO3) and the solvent was evaporated. The residue was chromatographed on a Biotage Flash 75 unit using CH2Cl2:MeOH:NH4OH, 92:8:0.8 as eluent. There was obtained 3.2 g (53% yield) of N,N-diethyl-4-[3-methoxyphenyl(1-propylpiperidin-4yl)amino]benzamide as a solid. A fumarate salt was prepared out of 2-PrOH: mp 168-169° C. MS m/z=424 (M++H). 300 MHz 1H NMR (DMSO-d6) δ7.3 (t, 1H); 7.2 (d, 2H); 6.8 (d, 1H); 6.6 (m, 4H); 6.5 (s, 2H); 4.0 (m, 1H); 3.75 (s, 3H); 3.3 (q, 4H); 3.1 (d, 2H); 2.4 (m, 4H); 1.9 (d, 2H); 1.4 (m, 4H); 1.1 (t, 6H); 0.8 (t, 3H). Anal calcd. for C26H37N3O2.C4H4O4: C, 66.77; H, 7.65; N, 7.78. Found: C, 66.69; H, 7.76; N 7.68.

reactant | N-(3-methoxyphenyl)-1-propyl-4-piperidinamine | 14.1 mmol, 3.5 g | COC=1C=C(C=CC1)NC1CCN(CC1)CCC | C15H24N2O
reactant | N,N-diethyl-4-bromobenzamide | 14.1 mmol, 3.61 g | C(C)N(C(C1=CC=C(C=C1)Br)=O)CC | C11H14BrNO
reactant | sodium t-butoxide | 19.7 mmol, 1.89 g | CC(C)([O-])C.[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.141 mmol, 129 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.423 mmol, 263 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | N,N-diethyl-4-[3-methoxyphenyl(1-propylpiperidin-4yl)amino]benzamide | 3.2 g, 53% yield | C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)C1=CC(=CC=C1)OC)=O)CC | C26H37N3O2
